US07074794B2
4-Bromo-1-hydroxyisoquinoline (1.56 g) was dissolved in N-methyl-2-pyrrolidine (25 mL), and copper cyanide (1.56 g) was added thereto. The mixture was stirred at 180° C. for 4 hr with heating. The reaction mixture was added to cool to 100° C. and added to an aqueous solution (125 mL) of sodium cyanide (31.25 g). The mixture was extracted with dichloromethane and the extract was dried and concentrated under reduced pressure. The residue was purified by silica gel chromatography to give 4-cyano-1-hydroxyisoquinoline (0.62 g) as a pale-yellow solid.

reactant | 4-Bromo-1-hydroxyisoquinoline | 1.56 g | BrC1=CN=C(C2=CC=CC=C12)O | C9H6BrNO
reactant | copper cyanide | 1.56 g | [Cu](C#N)C#N
reactant | sodium cyanide | 125 mL, 31.25 g | [C-]#N.[Na+]
product | 4-cyano-1-hydroxyisoquinoline | 0.62 g | C(#N)C1=CN=C(C2=CC=CC=C12)O | C10H6N2O
